US07847101B2
N-{2-[2-(5-Amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonylamino]-ethyl}-acetamide (551-25B):
the title compound (52 mg) was prepared from crude 2-(5-amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonyl chloride (100 mg, 0.30 mmol), N-(2-aminoethyl)-acetamide (58 μL, 0.60 mmol) and PS-NMM (0.320 g, 0.60 mmol) in 5 mL of methanol. MS (m/z, ES+): 395.6 (M+1, 100%). Yield=43%.

reactant | 2-(5-amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonyl chloride | 0.30 mmol, 100 mg | NC1=C(C(=NN1)C)C=1SC2=C(N1)C=CC(=C2)S(=O)(=O)Cl | C11H9ClN4O2S2
reactant | N-(2-aminoethyl)-acetamide | 0.60 mmol, 58 μL | NCCNC(C)=O | C4H10N2O
reactant | NMM | 0.60 mmol, 0.320 g | CN1CCOCC1 | C5H11NO
solvent | methanol | 5 mL | CO | CH4O
product | N-{2-[2-(5-Amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonylamino]-ethyl}-acetamide | 52 mg, Yield=43% | NC1=C(C(=NN1)C)C=1SC2=C(N1)C=CC(=C2)S(=O)(=O)NCCNC(C)=O | C15H18N6O3S2
